US06900215B2
3-Bromo-7-tert-butylimidazo[1,2-α]pyrimidine was coupled with 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as described in Example 1 to give 2′-fluoro-5′-(7-tert-butylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile as an off-white powder: δH (360 MHz, CDCl3) 1.43 (9H, s), 7.05 (1H, d, J 7), 7.37-7.73 (6H, m), 7.81 (1H, s), 7.85 (1H, dd, J 8 and 1), 8.75 (1H, d, J 7); m/z (ES+) 371 (M++H).

reactant | 3-Bromo-7-tert-butylimidazo[1,2-α]pyrimidine | BrC1=CN=C2N1C=CC(=N2)C(C)(C)C | C10H12BrN3
reactant | 2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | FC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C=1C(=CC=CC1)C#N | C19H19BFNO2
product | 2′-fluoro-5′-(7-tert-butylimidazo[1,2-α]pyrimidin-3-yl)biphenyl-2-carbonitrile | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=N2)C(C)(C)C)C=2C(=CC=CC2)C#N | C23H19FN4
